US06028195
(b) 1-[(4,5-Dimethyl-2-methoxyphenyl)aminothiocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine
Phenyl N-(4,5-dimethyl-2-methoxyphenyl)thiocarbamate(0.2 g, 0.7 mmol) and 1-(3,5-dimethoxyphenyl)piperazine(0.16 g, 0.7 mmol) were dissolved in tetrahydrofuran(10 ml) and thereto DBU(0.11 g, 0.7 mmole) was added, followed by stirring at room temperature for 2 hours. The resulting product was concentrated and purified by chromatography to obtain the titled compound.

reactant | Phenyl N-(4,5-dimethyl-2-methoxyphenyl)thiocarbamate | 0.7 mmol, 0.2 g | CC1=CC(=C(C=C1C)NC(OC1=CC=CC=C1)=S)OC | C16H17NO2S
reactant | 1-(3,5-dimethoxyphenyl)piperazine | 0.7 mmol, 0.16 g | COC=1C=C(C=C(C1)OC)N1CCNCC1 | C12H18N2O2
reactant | DBU | 0.7 mmole, 0.11 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-[(4,5-Dimethyl-2-methoxyphenyl)aminothiocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | yield: 84% | CC1=CC(=C(C=C1C)NC(=S)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC)OC | C22H29N3O3S
